US08030300B2
To a stirred solution of 7-tert-butoxycarbonyl-2-[4-(2-hydroxyethyl)-2-methoxy-5-pyridinyl]-7-azabicyclo[2.2.1]hept-2-ene (390 mg, 1.13 mmol) in dry CH2Cl2 (20 mL) under N2 was added CBr4 (745 mg, 2.25 mmol). The mixture was stirred at room temperature for 10 min, and then a solution of PPh3 (590 mg, 2.25 mmol) in dry CH2Cl2 (5 mL) was slowly added. After that the reaction mixture was stirred at room temperature for 2 h and quenched by water, and then diluted with CH2Cl2. The organic layer was separated and washed with brine, dried (Na2SO4), and concentrated. The residue was purified by chromatography with hexane/EtOAc (6:1) to afford 7-tert-butoxycarbonyl-2-[4-(2-bromoethyl)-2-methoxy-5-pyridinyl]-7-azabicyclo[2.2.1]hept-2-ene as a syrup (400 mg, 87%). 1H NMR (CDCl3) δ 7.95 (br s, 1H), 6.66 (s, 1H), 6.23 (br s, 1H), 4.86 (d, 1H, J=3.6 Hz), 4.81 (br s, 1H), 3.94 (s, 3H), 3.59-3.46 (m, 2H), 3.42-3.12 (m, 2H), 2.09-1.92 (m, 2H), 1.45 (s, 9H), 1.36-1.20 (m, 2H); 13C NMR (CDCl3) δ 163.83, 155.35, 148.55, 146.16, 144.63, 132.04, 123.16, 111.15, 80.16, 63.16, 61.35, 53.44, 35.97, 30.76, 28.20, 25.96 and 25.32, 24.55 and 23.62.

reactant | 7-tert-butoxycarbonyl-2-[4-(2-hydroxyethyl)-2-methoxy-5-pyridinyl]-7-azabicyclo[2.2.1]hept-2-ene | 1.13 mmol, 390 mg | C(C)(C)(C)OC(=O)N1C2C(=CC1CC2)C=2C(=CC(=NC2)OC)CCO | C19H26N2O4
reactant | CBr4 | 2.25 mmol, 745 mg | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 2.25 mmol, 590 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 7-tert-butoxycarbonyl-2-[4-(2-bromoethyl)-2-methoxy-5-pyridinyl]-7-azabicyclo[2.2.1]hept-2-ene | 400 mg, 87% | C(C)(C)(C)OC(=O)N1C2C(=CC1CC2)C=2C(=CC(=NC2)OC)CCBr | C19H25BrN2O3
